US05366989
To 40 ml of a solution of lithium diisopropylamide in dried diethyl ether prepared from 4.3 g of diisopropylamine and 26.0 ml of a 1.64N n-hexane solution of n-butyllithium was dropwise added 10 ml of a dried diethyl ether solution containing 5.1 g of ethyl 2-fluoropropionate at -70° to -60° C. The mixture was stirred at the same temperature for 15 minutes. Thereto was dropwise added 60 ml of a dried diethyl ether solution containing 6.2 g of 2-chloro-2',4'-difluoroacetophenone at -70° to -60° C. Then, the temperature of the mixture was elevated to 20° C. in 5 hours. The reaction mixture obtained was introduced into a mixed solvent consisting of 100 ml of ethyl acetate and 50 ml of water. The resulting solution was adjusted to pH 2.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: n-hexane/toluene=2/1) to obtain 3.9 g of oily ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2-fluoro-2-methylbutyrate (a mixture of diastereomers).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 4.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 2-fluoropropionate | 5.1 g | FC(C(=O)OCC)C | C5H9FO2
reactant | 2-chloro-2',4'-difluoroacetophenone | 6.2 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 1.64N | CCCCCC | C6H14
product | ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2-fluoro-2-methylbutyrate | 3.9 g | FC1=C(C=CC(=C1)F)C1(C(C(=O)OCC)(C)F)CO1 | C13H13F3O3
